US07381840B2
To a stirred solution of 8-amino-1,2,3,4-tetrahydro-naphthalen-2-ol (30.0 mg, 0.18 mmol) and pyridine (21.8 mg, 0.28 mmol) in 1.0 mL THF was added phenyl chloroformate (30.2 mg, 0.19 mmol), and the mixture was stirred for 1 hour at room temperature. To the product mixture was added water and extracted with ethylacetate. The organic layer was washed with brine, dried over Na2SO4, filtered and concentrated under reduced pressure. The obtained residue was triturated with ethylacetate and hexane to afford phenyl (7-hydroxy-5,6,7,8-tetrahydronaphthalen-1-yl)carbamate (25.2 mg, 48% yield).

reactant | 8-amino-1,2,3,4-tetrahydro-naphthalen-2-ol | 0.18 mmol, 30.0 mg | NC=1C=CC=C2CCC(CC12)O | C10H13NO
reactant | pyridine | 0.28 mmol, 21.8 mg | N1=CC=CC=C1 | C5H5N
reactant | phenyl chloroformate | 0.19 mmol, 30.2 mg | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | water | O | H2O
solvent | THF | 1.0 mL | C1CCOC1 | C4H8O
product | phenyl (7-hydroxy-5,6,7,8-tetrahydronaphthalen-1-yl)carbamate | 25.2 mg, 48% yield | OC1CCC=2C=CC=C(C2C1)NC(OC1=CC=CC=C1)=O | C17H17NO3
